US05025031
Methylsulfamic acid phenyl ester
The reaction flask was charged with 34.1 g (0.20 mole) of methylaminosulfonyl chloride, 18.8 g (0.20 mole) of phenol and 150 ml of toluene. The dark, red solution was heated at 110° C. for 16 hours. The solution was cooled and washed with a solution of 16 g of sodium bicarbonate in 80 ml water. The toluene solution was washed with water then stirred with Type 3A molecular sieve powder and Norite "A" activated charcoal. After filtration, the filtrate was concentrated to 32.7 g of oil (87% crude yield). The oil was dissolved in 100 ml methylene chloride and chromatographed on silica gel. The main fraction was concentrated to an oil which solidified after chilling for 3 days. The solid was triturated with petroleum ether to give 16.1 g of solid, mp 43°-45° C. A recrystallization from a mixture of isopropyl acetate (2 ml/g) and petroleum ether (4 ml/g) gave 12.3 g of solid, mp 44°-46° C.

reactant | methylaminosulfonyl chloride | 0.20 mole, 34.1 g | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | phenol | 0.20 mole, 18.8 g | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Methylsulfamic acid phenyl ester | 16.1 g | C1(=CC=CC=C1)OS(NC)(=O)=O | C7H9NO3S
